US09145354B2
Step 2 To a stirred solution of 1-tert-butyl 1-ethyl cyclopropane-1,1-dicarboxylate (0.5 g, 2.33 mmol) in THF (11.7 mL) at −78° C. was added lithium tri-tert-butoxyaluminum hydride solution (11.7 mL, 11.7 mmol) dropwise. The mixture was warmed to room temperature and stirred overnight before it was quenched at 0° C. by the addition of a saturated solution of potassium sodium tartrate. EtOAc was added the phases were separated and the aqueous phase was extracted into EtOAc (×2). Combined organic extracts were dried (Na2SO4), filtered and concentrated providing tert-butyl 1-(hydroxymethyl)-cyclopropane-1-carboxylate which was used without further purification, 0.438 g.

reactant | 1-tert-butyl 1-ethyl cyclopropane-1,1-dicarboxylate | 2.33 mmol, 0.5 g | C1(CC1)(C(=O)OC(C)(C)C)C(=O)OCC | C11H18O4
reactant | lithium tri-tert-butoxyaluminum hydride | 11.7 mmol, 11.7 mL | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | THF | 11.7 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-(hydroxymethyl)-cyclopropane-1-carboxylate | OCC1(CC1)C(=O)OC(C)(C)C | C9H16O3
